US08334309B2
150 mg of [5-(3-methoxybenzyl)-1,3,4-oxadiazol-2-yl]-(3-vinyl-1H-indazol-5-yl)amine (as trifluoroacetic acid salt, prepared from “A43”) are hydrogenated at room temperature in 10 ml of methanol in the presence of 150 mg of Pd/C. The reaction mixture is filtered and evaporated. Purification by column chromatography on silica gel (eluent: heptane/EA) gives 50 mg of (3-ethyl-1H-indazol-5-yl)-[5-(3-methoxybenzyl)-1,3,4-oxadiazol-2-yl]amine (44%); MS-FAB (M+H+)=350.39; Rf (polar method): 1.836 min.;

reactant | [5-(3-methoxybenzyl)-1,3,4-oxadiazol-2-yl]-(3-vinyl-1H-indazol-5-yl)amine | 150 mg | COC=1C=C(CC2=NN=C(O2)NC=2C=C3C(=NNC3=CC2)C=C)C=CC1 | C19H17N5O2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | (3-ethyl-1H-indazol-5-yl)-[5-(3-methoxybenzyl)-1,3,4-oxadiazol-2-yl]amine | 50 mg, 44% | C(C)C1=NNC2=CC=C(C=C12)NC=1OC(=NN1)CC1=CC(=CC=C1)OC | C19H19N5O2
